US05939439
Step 2: 4-(4-Bromophenyloxy)-1-trityl-1H-imidazole
To a cold (0° C.) solution of 4-(4-bromophenyloxy)-imidazole (1.2 g, 5.0 mmol) and triethylamine (0.76 mL, 5.5 mmol) in DMF (5 mL) under an atmosphere of argon, solid trityl chloride (1.46 g, 5.3 mmol) was added. The resultant mixture was stirred at room temp overnight. The product mixture was concentrated onto silica gel, loaded onto a column of silica gel, and eluted with a mixture of 9:1 chloroform and acetone. Collection and concentration of appropriate fractions provided the titled compound as white powder.

reactant | 4-(4-bromophenyloxy)-imidazole | 5.0 mmol, 1.2 g | BrC1=CC=C(C=C1)OC=1N=CNC1 | C9H7BrN2O
reactant | triethylamine | 5.5 mmol, 0.76 mL | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 5.3 mmol, 1.46 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(4-Bromophenyloxy)-1-trityl-1H-imidazole | BrC1=CC=C(C=C1)OC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H21BrN2O
